US05474996
a) [[2'-(methoxycarbonyl)-(1,1'-biphenyl)-4-yl]-methyl]zinc bromide
Using the procedure of Example 1,800 mg of electrolytic zinc, 2 ml of anhydrous tetrahydrofuran and 3.05 g of [(2'-(methoxycarbonyl)-(1,1'-biphenyl)-4-yl)-methyl]-bromide in 12 ml of anhydrous tetrahydrofuran were reacted.

reactant | zinc | 1,800 mg | [Zn] | Zn
reactant | [(2'-(methoxycarbonyl)-(1,1'-biphenyl)-4-yl)-methyl]-bromide | 3.05 g | COC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CBr | C15H13BrO2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | [[2'-(methoxycarbonyl)-(1,1'-biphenyl)-4-yl]-methyl]zinc bromide | [Br-].COC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)C[Zn+] | InChI=1S/C15H13O2.BrH.Zn/c1-11-7-9-12(10-8-11)13-5-3-4-6-14(13)15(16)17-2;;/h3-10H,1H2,2H3;1H;/q;;+1/p-1
